US06090833
1 g of 2-bromo-5-chloroindan-1-one and 622 mg of thionicotinamide are suspended in 10 ml of dry ethanol, and the mixture is stirred at room temperature for 2 h and at 70° C. for 8 h. The reaction mixture is cooled, and the precipitate is filtered off with suction, washed with ethanol, stirred with a little water, again filtered off with suction and dissolved in 50 ml of ethyl acetate. This solution is rendered alkaline with triethylamine, treated with 30 ml of water and the organic phase is separated off, washed with water, dried over magnesium sulfate and concentrated in vacuo, and finally the residue is chromatographed on silica gel using ethyl acetate/n-heptane 1/1. 6-Chloro-3a-ethoxy-2-pyridin-3-yl-8,8a-dihydro-3aH-indeno[1,2-d]thiazole of melting point 89-90° C. is obtained.

reactant | 2-bromo-5-chloroindan-1-one | 1 g | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | thionicotinamide | 622 mg | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Chloro-3a-ethoxy-2-pyridin-3-yl-8,8a-dihydro-3aH-indeno[1,2-d]thiazole | ClC1=CC=2CC3C(N=C(S3)C=3C=NC=CC3)(C2C=C1)OCC | C17H15ClN2OS
